US09079878B2
Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate
Methyl propionate (2.71 g, 30.8 mmol) was dissolved in anhydrous THF (90 mL) and cooled to −78° C. under nitrogen. LDA (2M solution in THF, 15 mL, 30 mmol) was added drop-wise. After 1 hour at −78° C., a solution of 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide (Preparation 39, 1.35 g, 7.703 mmol) in anhydrous THF (10 mL) was added. The reaction was gradually warmed to room temperature and stirred for 18 hours. The reaction was quenched with a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography to afford the title compound as an oil (1.276 g, 63% yield).

reactant | Methyl propionate | 30.8 mmol, 2.71 g | C(CC)(=O)OC | C4H8O2
reactant | LDA | 30 mmol, 2M, 15 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide | 7.703 mmol, 1.35 g | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate | 1.276 g, 63% yield | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OC)C | C11H21NO4S
